US07087644B1
Methyl 4-{[(5-ethoxy-5-oxopentyl)(2-{[5-(4-phenylpiperazino)-pentyl]oxy}phenethyl)amino]methyl}benzoate
200.0 mg (0.355 mmol) of methyl 4-{[{2-[(5-bromopentyl)oxy]phenethyl}(5-ethoxy-5-oxopentyl)amino]methyl}benzoate from Ex. 107, 69.21 mg of N-phenylpiperazine and 71.95 mg (0.711 mmol) of triethylamine in 2 ml of tetrahydrofuran are heated at reflux for 18 hours. The reaction solution is washed with water, concentrated and chromatographed over silica gel using the mobile phase ethyl acetate/methanol 10/1.

reactant | methyl 4-{[{2-[(5-bromopentyl)oxy]phenethyl}(5-ethoxy-5-oxopentyl)amino]methyl}benzoate | 0.355 mmol, 200.0 mg | BrCCCCCOC1=C(CCN(CCCCC(=O)OCC)CC2=CC=C(C(=O)OC)C=C2)C=CC=C1 | C29H40BrNO5
reactant | N-phenylpiperazine | 69.21 mg | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | triethylamine | 0.711 mmol, 71.95 mg | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | Methyl 4-{[(5-ethoxy-5-oxopentyl)(2-{[5-(4-phenylpiperazino)-pentyl]oxy}phenethyl)amino]methyl}benzoate | C(C)OC(CCCCN(CCC1=C(C=CC=C1)OCCCCCN1CCN(CC1)C1=CC=CC=C1)CC1=CC=C(C(=O)OC)C=C1)=O | C39H53N3O5
